US20010023257A1
c2) tert-butyl (octahydro-4,7-methanoinden-5-yl)carbamate
500 mg of a mixture of tert-butyl (3a,4,5,6,7,7a-hexahydro-1H-4,7-methanoinden-5-yl)carbamate and tert-butyl (3a,4,5,6,7,7a-hexahydro-3H-4,7-methanoinden-5-yl)carbamate were dissolved in 20 ml of methanol and 2 ml of acetic acid and hydrogenated under an atmosphere of hydrogen (1 bar) for 6 hours, with the aid of 200 mg of Pd/C 10% (50% water). The catalyst was filtered off and the volatile components were removed under reduced pressure. This gave 470 mg of a resin-like amorphous solid.

reactant | tert-butyl (3a,4,5,6,7,7a-hexahydro-1H-4,7-methanoinden-5-yl)carbamate | C1C=CC2C3C(CC(C12)C3)NC(OC(C)(C)C)=O | C15H23NO2
reactant | tert-butyl (3a,4,5,6,7,7a-hexahydro-3H-4,7-methanoinden-5-yl)carbamate | C1=CCC2C3C(CC(C12)C3)NC(OC(C)(C)C)=O | C15H23NO2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | tert-butyl (octahydro-4,7-methanoinden-5-yl)carbamate | C1CCC2C3C(CC(C12)C3)NC(OC(C)(C)C)=O | C15H25NO2
